US07718645B2
Methyl(+)-{4-[4-(4-Amino-5-oxo-7,8-dihydropyrimido[5,4-f][1,4]oxazepin-6(5H)-yl)phenyl]cyclohex-3-en-1-yl}acetate
A stirred solution of 4-amino-6-(4-iodophenyl)-7,8-dihydropyrimido[5,4-f][1,4]oxazepin-5(6H)-one (40 mg, 0.10 mmol), methyl[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)cyclohex-3-en-1-yl]acetate (38 mg, 0.14 mmol), cesium carbonate (42 mg, 0.28 mmol) and palladium tetrakis(triphenyl-phosphine) (6 mg, 0.005 mmol) in 1,2-dimethoxyethane (1.0 mL) was heated at 100° C. for 18 hours. The reaction mixture was cooled, concentrated and chromatographed to afford a white solid, 19 mg. IC50 84.3 nM.

reactant | 4-amino-6-(4-iodophenyl)-7,8-dihydropyrimido[5,4-f][1,4]oxazepin-5(6H)-one | 0.10 mmol, 40 mg | NC1=NC=NC2=C1C(N(CCO2)C2=CC=C(C=C2)I)=O | C13H11IN4O2
reactant | methyl[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)cyclohex-3-en-1-yl]acetate | 0.14 mmol, 38 mg | COC(CC1CC=C(CC1)B1OC(C(O1)(C)C)(C)C)=O | C15H25BO4
reactant | cesium carbonate | 0.28 mmol, 42 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,2-dimethoxyethane | 1.0 mL | COCCOC | C4H10O2
catalyst | palladium tetrakis(triphenyl-phosphine) | 0.005 mmol, 6 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | Methyl(+)-{4-[4-(4-Amino-5-oxo-7,8-dihydropyrimido[5,4-f][1,4]oxazepin-6(5H)-yl)phenyl]cyclohex-3-en-1-yl}acetate | NC1=NC=NC2=C1C(N(CCO2)C2=CC=C(C=C2)C2=CCC(CC2)CC(=O)OC)=O | C22H24N4O4
